US04129661
4-(4-chlorophenyl)-4,5-dihydro-2-methoxycarbonylamino-imidazole;
4-(2-bromophenyl)-4,5-dihydro-2-methoxycarbonylamino-imidazole, m.p. 203°-204° C., HCl salt m.p. 156°-159° C.;

reactant | 4-(2-bromophenyl)-4,5-dihydro-2-methoxycarbonylamino-imidazole | BrC1=C(C=CC=C1)C1N=C(NC1)NC(=O)OC | C11H12BrN3O2
reactant | HCl | Cl | ClH
product | 4-(4-chlorophenyl)-4,5-dihydro-2-methoxycarbonylamino-imidazole | ClC1=CC=C(C=C1)C1N=C(NC1)NC(=O)OC | C11H12ClN3O2
